US07122550B2
N-[4-(6-{[(1S)-1-phenylethyl]amino}pyrazin-2-yl)phenyl]methanesulfonamide
To a stirred solution of 6-(4-aminophenyl)-N-[(1S)-1-phenylethyl]pyrazin-2-amine (58 mg, 0.2 mmol) in dry THF (3 mL) was added triethylamine (70 μL, 0.5 mmol). The solutions was cooled to 0° C. and methanesulphonyl chloride (18.6 μL, 0.24 mmol) was added dropwise. The mixture was allowed to warm to RT and stirred overnight, before dilution with water (15 mL). The product was extracted into ethyl acetate (2×15 mL) and the combined extracts washed with 10% aqueous Na2CO3 and brine, and then dried (Na2SO4). The solvent was removed under reduced pressure and the product purified by chromatography eluting with ethyl acetate-hexane (3:2) to afford the product as a pale yellow solid (54 mg, 73%).

reactant | 6-(4-aminophenyl)-N-[(1S)-1-phenylethyl]pyrazin-2-amine | 0.2 mmol, 58 mg | NC1=CC=C(C=C1)C1=CN=CC(=N1)N[C@@H](C)C1=CC=CC=C1 | C18H18N4
reactant | triethylamine | 0.5 mmol, 70 μL | C(C)N(CC)CC | C6H15N
reactant | methanesulphonyl chloride | 0.24 mmol, 18.6 μL | CS(=O)(=O)Cl | CH3ClO2S
reactant | water | 15 mL | O | H2O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | N-[4-(6-{[(1S)-1-phenylethyl]amino}pyrazin-2-yl)phenyl]methanesulfonamide | 54 mg, 73% | C1(=CC=CC=C1)[C@H](C)NC1=CN=CC(=N1)C1=CC=C(C=C1)NS(=O)(=O)C | C19H20N4O2S
